US08106066B2
AIBN (1.35 mmol) was added to a solution of 6-chloro-3-methylisothiazolo[5,4-b]pyridine (13.5 mmol) and N-bromosuccinamide (27.1 mmol) in carbon tetrachloride (25 mL). The reaction mixture was heated at 80° C. for 6 h, allowed to cool to rt, and the precipitated solids were removed by filtration. The filtrate was concentrated to provide crude 3-(bromomethyl)-6-chloroisothiazolo[5,4-b]pyridine as yellow oil.

reactant | AIBN | 1.35 mmol | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | 6-chloro-3-methylisothiazolo[5,4-b]pyridine | 13.5 mmol | ClC1=CC=C2C(=N1)SN=C2C | C7H5ClN2S
reactant | N-bromosuccinamide | 27.1 mmol | BrNC(CCC(=O)N)=O | C4H7BrN2O2
solvent | carbon tetrachloride | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(bromomethyl)-6-chloroisothiazolo[5,4-b]pyridine | BrCC1=NSC2=NC(=CC=C21)Cl | C7H4BrClN2S
